US07994185B2
Step F: 2-Propen-1-yl [3-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-(methyloxy)phenyl]carbamate
To a solution of 2-propen-1-yl [3-[(2-chloro-4-pyrimidinyl)acetyl]-2-(methyloxy)phenyl]carbamate (15.4 g, 42 mmol) in DCM (150 mL), NBS (7.6 g, 42 mmol) was added and the solution was allowed to stir at rt for 30 min. The reaction mixture was then concentrated in vacuo and the resulting oil was diluted with DMSO (150 mL) and 2-methylpropanethioamide (6.6 g 63.8 mmol) was added at once. The reaction was complete after stirring 1 h at rt. The reaction mixture was diluted with EtOAc and organic layer was washed with water and brine successively, dried over Na2SO4, filtered and concentrated under reduced pressure to give the crude product, which was purified by column chromatography on silica gel (DCM:petroleum ether 2:1) to afford the title compound of Step F (12.1 g, 63.8% yield) which was used directly in the next step.

reactant | 2-propen-1-yl [3-[(2-chloro-4-pyrimidinyl)acetyl]-2-(methyloxy)phenyl]carbamate | 42 mmol, 15.4 g | ClC1=NC=CC(=N1)CC(=O)C=1C(=C(C=CC1)NC(OCC=C)=O)OC | C17H16ClN3O4
reactant | NBS | 42 mmol, 7.6 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 2-methylpropanethioamide | 63.8 mmol, 6.6 g | CC(C(N)=S)C | C4H9NS
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
solvent | DMSO | 150 mL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-Propen-1-yl [3-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-(methyloxy)phenyl]carbamate | 12.1 g, 63.8% yield | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C(=C(C=CC1)NC(OCC=C)=O)OC | C21H21ClN4O3S
